US08304577B2
To a solution of t-butyl (1R)-2-hydroxy-2-methyl-1-(4-(2-methylpentyloxy)phenyl)-propylcarbamate (340 mg, 0.930 mmol) in dichloromethane (1 mL) was added TFA (2 mL, 26.0 mmol). The reaction mixture was stirred at room temperature for 1 h. The solvent was evaporated and the residue was transferred to a separatory funnel containing saturated aqueous K2CO3 solution. The aqueous layer was extracted with ethyl acetate (2×10 mL). The combined organic layers were concentrated to afford (1R)-1-amino-2-methyl-1-(4-(2-methylpentyloxy)phenyl)propan-2-ol.TFA (350 mg, 99% yield) as a colorless oil which was used directly in the next step: 1H NMR (400 MHz, CDCl3) δ 7.20 (d, J=8.6 Hz, 2H), 6.82 (d, J=8.8 Hz, 2H), 3.78 (dd, J=9.1, 5.8 Hz, 1H), 3.73 (s, 1H), 3.68 (dd, J=8.9, 6.7 Hz, 1H), 1.86-1.97 (m, 1H), 1.27-1.51 (m, 4H), 1.17 (s, 3H), 1.01 (s, 3H), 0.99 (d, J=6.8 Hz, 3H), 0.90 (t, J=7.3 Hz, 3H).

reactant | t-butyl (1R)-2-hydroxy-2-methyl-1-(4-(2-methylpentyloxy)phenyl)-propylcarbamate | 0.930 mmol, 340 mg | OC([C@@H](C1=CC=C(C=C1)OCC(CCC)C)NC(OC(C)(C)C)=O)(C)C | C21H35NO4
reactant | TFA | 26.0 mmol, 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | (1R)-1-amino-2-methyl-1-(4-(2-methylpentyloxy)phenyl)propan-2-ol | N[C@@H](C(C)(O)C)C1=CC=C(C=C1)OCC(CCC)C | C16H27NO2
